US05750531
2-(N-methylphenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-6-propylpyrimidine hydrochloride
After N-methylaniline(0.27 ml, 2.49 mmol) was added to a mixture solution of 4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-6-propyl-2-chloropyrimidine(0.5 g, 1.66 mmol) and dimethylformamide (5 ml), 0.5 g of the title compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | N-methylaniline | 2.49 mmol, 0.27 ml | CNC1=CC=CC=C1 | C7H9N
reactant | 4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-6-propyl-2-chloropyrimidine | 1.66 mmol, 0.5 g | CC1N(CCC2=CC=CC=C12)C1=NC(=NC(=C1)CCC)Cl | C17H20ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(N-methylphenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-6-propylpyrimidine hydrochloride | 0.5 g, Yield: 73.6% | Cl.CN(C1=NC(=CC(=N1)N1C(C2=CC=CC=C2CC1)C)CCC)C1=CC=CC=C1 | InChI=1S/C24H28N4.ClH/c1-4-10-20-17-23(26-24(25-20)27(3)21-12-6-5-7-13-21)28-16-15-19-11-8-9-14-22(19)18(28)2;/h5-9,11-14,17-18H,4,10,15-16H2,1-3H3;1H
